US09402833B2
NaBH4 (0.25 g, 6.69 mmol) was added to a solution of 5-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)-3,4-dihydro-2H-pyrrole (Int-55) (0.8 g, 3.34 mmol) in a mixture of MeOH and H2O (3:1, 20 mL) and was stirred at 25° C. for 2 h. Reaction mixture was quenched with 1N aqueous HCl solution (50 mL) and basified with 2N aqueous NaOH solution to pH 8 and extracted with DCM (3×20 mL). The organic layer was dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford 2-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)pyrrolidine (Int-56). MS (ESI) m/z 224.5 (M+H).

reactant | NaBH4 | 6.69 mmol, 0.25 g | [BH4-].[Na+]
reactant | 5-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)-3,4-dihydro-2H-pyrrole | 3.34 mmol, 0.8 g | FC=1C=C(C2=C(OCCO2)C1)C=1CCCN1 | C12H12FNO2
solvent | MeOH | CO | CH4O
solvent | H2O | 20 mL | O | H2O
product | 2-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)pyrrolidine | FC=1C=C(C2=C(OCCO2)C1)C1NCCC1 | C12H14FNO2
